US05036153
(2R, 4S)-2-Hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl)-pyrrolidine
To 900 ml of THF was added 21.75g (574.9 mmol) of sodium borohydride and the mixture was cooled to 10° C. before 97.92 ml (776.2 mmol) of borontrifluoride etherate was added dropwise over a period of 1 hour. Then 82 g (287.4 mmol) of N-(4-toluenesulfonyl)-4-hydroxy-D-proline was added carefully in 330 ml of THF at 0° C. and the mixture was warmed to room temperature and allowed to stir for 16 hours. The reaction was cooled to 0° C. and quenched with methanol: 10% aqueous HC1 solution was then added and the mixture was gently heated to 60° C. for 1 hour. The pH of the reaction was adjusted to neutral with 50% aqueous sodium hydroxide solution and the volatiles were evaporated under reduced pressure. The product was then isolated via filtration and the filter cake was washed with water. Drying under vacuum at 60° C. for 12 hours yielded 78 g of the product as a white solid in 100% yield. M.P.=131°-132° C.

reactant | sodium borohydride | 574.9 mmol, 21.75g | [BH4-].[Na+]
reactant | borontrifluoride etherate | 776.2 mmol, 97.92 ml | B(F)(F)F.CCOCC
reactant | N-(4-toluenesulfonyl)-4-hydroxy-D-proline | 287.4 mmol, 82 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C(=O)O)CC(C1)O)C | C12H15NO5S
solvent | THF | 330 ml | C1CCOC1 | C4H8O
solvent | THF | 900 ml | C1CCOC1 | C4H8O
product | (2R, 4S)-2-Hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl)-pyrrolidine | 78 g, 100% yield | OC[C@@H]1N(C[C@H](C1)O)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO4S
